US08633212B2
Step 3. 6′-bromo-5,6,8,9-tetrahydrospiro[benzo[7]annulene-7,2′-inden]-1′(3′H)-one
A mixture of 6-bromo-indan-1-one (300 mg, 1.43 mmol), 1,2-bis(2-bromoethyl)-benzene (414.3 mg, 1.43 mmol) in THF (10 mL) was added NaH (114 mg, 2.86 mmol) at room temperature, the mixture was refluxed for 2 hours. The mixture was quenched with water, concentrated, then extracted with DCM, washed with brine, dried over Na2SO4, concentrated to 6′-bromo-5,6,8,9-tetrahydrospiro[benzo[7]annulene-7,2′-inden]-1′(3′H)-one (20 mg, 5%).

reactant | 6-bromo-indan-1-one | 1.43 mmol, 300 mg | BrC1=CC=C2CCC(C2=C1)=O | C9H7BrO
reactant | 1,2-bis(2-bromoethyl)-benzene | 1.43 mmol, 414.3 mg | BrCCC1=C(C=CC=C1)CCBr | C10H12Br2
reactant | NaH | 2.86 mmol, 114 mg | [H-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6′-bromo-5,6,8,9-tetrahydrospiro[benzo[7]annulene-7,2′-inden]-1′(3′H)-one | BrC1=CC=C2CC3(C(C2=C1)=O)CCC1=C(CC3)C=CC=C1 | C19H17BrO
